US08877774B2
Step 1. Benzyl 4-((3-(((tert-butoxycarbonyl)amino)(phenyl)methyl)phenoxy)methyl)-piperidine-1-carboxylate
To a stirred solution of tert-butyl(3-hydroxyphenyl)(phenyl)methylcarbamate. (the second eluting isomer from Chiral Example 1 Step 4, 1.00 g, 3.34 mmol) in DMF (15 mL), was added potassium carbonate (0.554 g, 4.01 mmol). The reaction mixture was stirred for 10 minutes, and benzyl 4-((tosyloxy)methyl)piperidine-1-carboxylate (prepared according to Bioorganic & Medicinal Chemistry Letters, 20(1), 380-382; 2010, which is incorporated herein by reference in its entirety, 1.48 g, 3.67 mmol) added. The reaction mixture was heated at 60° C. for 2 days followed by 80° C. for 5 days. The reaction mixture was diluted with ethyl acetate and washed with water and saturated brine (×2). The organic phase was dried with anhydrous magnesium sulfate, and the solvent evaporated at reduced pressure. The crude material was purified by silica gel chromatography eluting with 100% iso-hexane to 50% ethyl acetate in iso-hexane to afford the title compound (1.12 g, 63%).

reactant | tert-butyl(3-hydroxyphenyl)(phenyl)methylcarbamate | C(C)(C)(C)OC(N(CC1=CC=CC=C1)C1=CC(=CC=C1)O)=O | C18H21NO3
reactant | potassium carbonate | 4.01 mmol, 0.554 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl 4-((tosyloxy)methyl)piperidine-1-carboxylate | S(=O)(=O)(C1=CC=C(C)C=C1)OCC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C21H25NO5S
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Benzyl 4-((3-(((tert-butoxycarbonyl)amino)(phenyl)methyl)phenoxy)methyl)-piperidine-1-carboxylate | 1.12 g, 63% | C(C)(C)(C)OC(=O)NC(C=1C=C(OCC2CCN(CC2)C(=O)OCC2=CC=CC=C2)C=CC1)C1=CC=CC=C1 | C32H38N2O5
